US09260425B2
A microwave reaction vial was charged with (S)-tert-butyl 1-(3-bromo-6-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-3-ylcarbamate (128.3 mg, 0.189 mmol), 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane (320 uL, 1.9 mmol), 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride (15.4 mg, 0.0189 mmol), 1.00 M of Potassium acetate in Water (0.28 mL, 0.28 mmol), 1.00 M of Sodium carbonate in Water (0.28 mL, 0.28 mmol), and Acetonitrile (10 mL). The reaction mixture was heated under microwave at 150° C. for 5 minutes. The mixture was concentrated, and the residue was purified on silica eluted with 0 to 100% EtOAc in Heptane to afford (S)-tert-butyl 1-(6-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)-3-vinylpyridin-2-yl)piperidin-3-ylcarbamate (107 mg, 91%).

reactant | (S)-tert-butyl 1-(3-bromo-6-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)pyridin-2-yl)piperidin-3-ylcarbamate | 0.189 mmol, 128.3 mg | BrC=1C(=NC(=CC1)C1=NN(C2=CN=C(C=C21)C=2C=NC=CC2)COCC[Si](C)(C)C)N2C[C@H](CCC2)NC(OC(C)(C)C)=O | C32H42BrN7O3Si
reactant | 4,4,5,5-tetramethyl-2-vinyl-1,3,2-dioxaborolane | 1.9 mmol, 320 uL | CC1(OB(OC1(C)C)C=C)C | C8H15BO2
reactant | Potassium acetate | 1.00 M | C(C)(=O)[O-].[K+]
reactant | Water | 0.28 mmol, 0.28 mL | O | H2O
reactant | Water | 0.28 mmol, 0.28 mL | O | H2O
solvent | Sodium carbonate | 1.00 M | C([O-])([O-])=O.[Na+].[Na+]
catalyst | 1,1′-Bis(diphenylphosphino)ferrocenepalladium (II) chloride | 0.0189 mmol, 15.4 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | Acetonitrile | 10 mL | C(C)#N | C2H3N
product | (S)-tert-butyl 1-(6-(5-(pyridin-3-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-pyrazolo[3,4-c]pyridin-3-yl)-3-vinylpyridin-2-yl)piperidin-3-ylcarbamate | 107 mg, 91% | N1=CC(=CC=C1)C=1C=C2C(=CN1)N(N=C2C2=CC=C(C(=N2)N2C[C@H](CCC2)NC(OC(C)(C)C)=O)C=C)COCC[Si](C)(C)C | C34H45N7O3Si
